US06093732
2,3-Dichloroaniline (7.83 g) and diethyl ethoxymethylenemalonate (9.76 g) are heated at 130° C. for 1.5 hours. The reaction is cooled to 60° C. and the solution poured into hexanes. The intermediate enamine is collected and dried. The solid is added to 70 mL diphenyl ether and heated to 250° C. for 1.5 hours with removal of ethanol with a Dean-Stark trap. The reaction is cooled to room temperature. The product is collected by filtration, washed thoroughly with hexanes, and dried to yield 11.32 g of ethyl 7,8-dichloro-4-hydroxyquinoline-3-carboxylate. A mixture of this ester (0.48 g) and 4-chlorobenzylamine (1.0 mL) are heated at 180° C. for 1 hour. The reaction is cooled to room temperature and diethyl ether is added. The resulting solid is filtered, washed twice with diethyl ether, and dried. The solid is adsorbed onto silica and purified by Biotage Flash 40S chromatography (eluent 2% MeOH:CH2Cl2). The product-containing fractions are evaporated to give a white solid (0.12 g).

reactant | 2,3-Dichloroaniline | 7.83 g | ClC1=C(N)C=CC=C1Cl | C6H5Cl2N
reactant | diethyl ethoxymethylenemalonate | 9.76 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | ethyl 7,8-dichloro-4-hydroxyquinoline-3-carboxylate | 11.32 g | ClC1=CC=C2C(=C(C=NC2=C1Cl)C(=O)OCC)O | C12H9Cl2NO3
